US07776888B2
4.2 ml of trimethylsilyl-diazomethane are added dropwise at a temperature of −10° C. to a solution of 1.91 g (7 mmol) of 5-bromo-7,8-dioxo-bicyclo[2.2.2]oct-5-ene-2-carboxylic acid methyl ester in 20 ml of dichloromethane and 0.089 ml (0.7 mmol) of boron trifluoride etherate. The cooling is removed and the reaction mixture is stirred for 4 hours at a temperature of 20° C. The reaction solution is then extracted with water, the organic phase is dried over sodium sulfate and concentrated by evaporation using a rotary evaporator, and the residue is purified by silica gel chromatography. An isomer of 8-bromo-2,4-dioxo-bicyclo[3.2.2]non-8-ene-6-carboxylic acid methyl ester is obtained.

reactant | trimethylsilyl-diazomethane | 4.2 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 5-bromo-7,8-dioxo-bicyclo[2.2.2]oct-5-ene-2-carboxylic acid methyl ester | 7 mmol, 1.91 g | COC(=O)C1C2C=C(C(C1)C(C2=O)=O)Br | C10H9BrO4
reactant | boron trifluoride etherate | 0.7 mmol, 0.089 ml | B(F)(F)F.CCOCC
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 8-bromo-2,4-dioxo-bicyclo[3.2.2]non-8-ene-6-carboxylic acid methyl ester | COC(=O)C1C2C(CC(C(C1)C(=C2)Br)=O)=O | C11H11BrO4
